US07265144B2
A solution of (2-methylphenyl)hydrazine hydrochloride (2.00 g, 14.6 mmol) and crude 3-cyclopentyl-3-oxopropanenitrile from the previous step (2.32 g, ˜14.6 mmol) in toluene (6 mL) was heated to reflux for 16 h. Removal of the solvent under reduced pressure provided a residue which was purified by silica gel chromatography using hexane/EtOAc (3:1, v/v) as the eluent. Concentration under reduced pressure provided 3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-amine as a light orange solid (2.19 g, 62%). ES-MS m/z 241.9 (MH+); HPLC RT (min) 1.69. 1H NMR (400 MHz, CDCl3) δ 1.58-1.82 (m, 6H), 2.00-2.16 (m, 2H), 2.17-2.21 (s, 3H), 2.93-3.11 (m, 1H), 3.42-3.58 (s, 2H), 5.41-5.46 (s, 1H), 7.20-7.28 (m, 2H) 7.29-7.37 (m, 2H).

reactant | (2-methylphenyl)hydrazine hydrochloride | 14.6 mmol, 2.00 g | Cl.CC1=C(C=CC=C1)NN
reactant | 3-cyclopentyl-3-oxopropanenitrile | C1(CCCC1)C(CC#N)=O | C8H11NO
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-amine | 2.19 g, 62% | C1(CCCC1)C1=NN(C(=C1)N)C1=C(C=CC=C1)C | C15H19N3
